US07556909B2
Synthesis of phenacyltetrahydrothiophenium bromide
88.2 g (0.44 mole) of phenacyl bromide and 39.1 g (0.44 mole) of tetrahydrothiophene were dissolved in 220 g of nitromethane, which was stirred for 4 hours at room temperature. 800 g of water and 400 g of diethyl ether were added to the reaction solution whereupon the mixture separated into two layers. The aqueous layer was taken out, which was an aqueous solution of the target compound, phenacyltetrahydrothiophenium bromide.

reactant | phenacyl bromide | 0.44 mole, 88.2 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | tetrahydrothiophene | 0.44 mole, 39.1 g | S1CCCC1 | C4H8S
reactant | water | 800 g | O | H2O
reactant | diethyl ether | 400 g | C(C)OCC | C4H10O
solvent | nitromethane | 220 g | [N+](=O)([O-])C | CH3NO2
product | phenacyltetrahydrothiophenium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[S+]1CCCC1 | InChI=1S/C12H15OS.BrH/c13-12(10-14-8-4-5-9-14)11-6-2-1-3-7-11;/h1-3,6-7H,4-5,8-10H2;1H/q+1;/p-1
